US07683181B2
1d) 4-(1-Aminomethyl-cyclohexyl)-N-(5-isopropyl-[1,3,4]thiadiazol-2-yl)-benzenesulfonamide hydrochloride
1 g of N-{1-[4-(5-isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-cyclohexylmethyl}-acetamide was suspended in 25 ml five molar hydrochloric acid and heated under reflux for 20 hours. The cooled reaction mixture was evaporated in vacuo. The residue was purified by chromatography on silica gel with the eluents dichloromethane:methanol=95:5 to obtain 0.78 g of a with solid.

reactant | N-{1-[4-(5-isopropyl-[1,3,4]thiadiazol-2-ylsulfamoyl)-phenyl]-cyclohexylmethyl}-acetamide | 1 g | C(C)(C)C1=NN=C(S1)NS(=O)(=O)C1=CC=C(C=C1)C1(CCCCC1)CNC(C)=O | C20H28N4O3S2
reactant | hydrochloric acid | five molar, 25 ml | Cl | ClH
product | 4-(1-Aminomethyl-cyclohexyl)-N-(5-isopropyl-[1,3,4]thiadiazol-2-yl)-benzenesulfonamide hydrochloride | Cl.NCC1(CCCCC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC(=NN1)C(C)C | InChI=1S/C18H26N4O2S2.ClH/c1-13(2)16-20-21-17(25-16)22-26(23,24)15-8-6-14(7-9-15)18(12-19)10-4-3-5-11-18;/h6-9,13H,3-5,10-12,19H2,1-2H3,(H,21,22);1H
